US04894219
2-Amino-2-methyl-1-(4-aminopenyl) propane.
2-Amino-2-methyl-1-(4-nitrophenyl)propane sulfate (6.07 g, 25 mmol) was suspended in ethanol (33 ml, 50 mmol) was added with stirring. Hydrazine (2.5 g, 78 mmol) was added, followed by Raney nickel (0.2 ml of 50% slurry). After 1 min gas evolution began, and the mixture turned yellow and was warmed to about 40° C. After 20 min gas evolution has almost ceased. Fresh catalyst was added and the mixture was boiled with stirring for 5 min to decompose excess hydrazine. After cooling, the suspension was filtered, the catalyst was washed with ethanol, and the filtrates were evaporated. The residue was extracted with diethyl ether (3×40 ml), and the extracts were dried (K2CO3) and evaporated, leaving a yellow oil, which solidified (3.87 g); mp 82-84° C.

reactant | 2-Amino-2-methyl-1-(4-nitrophenyl)propane sulfate | 25 mmol, 6.07 g | S(=O)(=O)(O)O.NC(CC1=CC=C(C=C1)[N+](=O)[O-])(C)C
reactant | ethanol | 50 mmol, 33 ml | C(C)O | C2H6O
reactant | Hydrazine | 78 mmol, 2.5 g | NN | H4N2
catalyst | Raney nickel | 0.2 ml | [Ni] | Ni
product | 2-Amino-2-methyl-1-(4-aminopenyl) propane | NC(CC1=CC=C(C=C1)N)(C)C | C10H16N2
